US05055168
152 g of bisphenol A, 63 g of a diglycidyl ether of bisphenol A having an epoxy equivalent weight of 189 and 0.1 g of tributylphosphine were heated at 160° C. for 1 hour. Afterwards the epoxy was no longer detectable, and a chain-extended diphenol had formed. 53.8 g of isopropanol, 129 g of di-n-butylamine, 31.5 g of paraformaldehyde and 17.6 g of isobutanol were added and the mixture was heated at 80° C. for 2 hours. The product had a solids content of 80% by weight.

reactant | bisphenol A | 152 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | diglycidyl ether of bisphenol A | 63 g | CC(C)(C1=CC=C(C=C1)OCC2CO2)C3=CC=C(C=C3)OCC4CO4 | C21H24O4
reactant | tributylphosphine | 0.1 g | C(CCC)P(CCCC)CCCC | C12H27P
product | diphenol | C1=CC=C(C(=C1)C2=CC(=CC=C2)O)O | C12H10O2
